US05350736
To a mixture of ethyl acetate (50 ml) and aqueous potassium carbonate (20 ml), 3-(3-trifluoromethyl-4-fluorophenyl)-5-methyl-2-iminothiazoline hydrochloride (1 g) was added; and the mixture was stirred. The organic layer was isolated and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 0.7 g of 3-(3-trifluoromethyl-4-fluorophenyl)-5-methyl-2-iminothiazoline as an oil.

reactant | potassium carbonate | 20 ml | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(3-trifluoromethyl-4-fluorophenyl)-5-methyl-2-iminothiazoline hydrochloride | 1 g | Cl.FC(C=1C=C(C=CC1F)N1C(SC(=C1)C)=N)(F)F
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-(3-trifluoromethyl-4-fluorophenyl)-5-methyl-2-iminothiazoline | 0.7 g | FC(C=1C=C(C=CC1F)N1C(SC(=C1)C)=N)(F)F | C11H8F4N2S
